US06603005B2
A mixture of 1.75 g of ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate dihydrochloride, 0.95 g of 2-(2-bromoethylthio)-1,4-difluorobenzene, 0.622 g of potassium iodide and 3.11 g of potassium carbonate in 30 cm3 of acetonitrile and 20 cm3 of dimethylformamide was heated with stirring for 18 hours at a temperature in the region of 85° C. After cooling to about 20° C., the reaction mixture was filtered through Celite and the filtrate was then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue obtained was taken up in water and diethyl ether. The organic phase was dried over magnesium sulfate, filtered and then concentrated to dryness as above. The residue obtained was purified by chromatography under atmospheric pressure, on a column of silica gel (particle size 70-200μ; diameter 4 cm), eluting with a dichloromethane/methanol mixture (97.5/2.5 by volume). The fractions containing the product were combined and then concentrated to dryness according to the same conditions as above. 0.6 g of methyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)-3-(R,S)-hydroxypropyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-4-carboxylate was obtained.

reactant | ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate dihydrochloride | 1.75 g | Cl.Cl.ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCNCC1)C(=O)OCC)OC
reactant | 2-(2-bromoethylthio)-1,4-difluorobenzene | 0.95 g | BrCCSC1=C(C=CC(=C1)F)F | C8H7BrF2S
reactant | potassium iodide | 0.622 g | [I-].[K+]
reactant | potassium carbonate | 3.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 cm3 | C(C)#N | C2H3N
solvent | dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)-3-(R,S)-hydroxypropyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-4-carboxylate | 0.6 g | ClC=1C=NC2=CC=C(C=C2C1C(CCC1(CCN(CC1)CCSC1=C(C=CC(=C1)F)F)C(=O)OC)O)OC | C28H31ClF2N2O4S
